US05270466
Preparation of 5-Chloro-4-(dimethylamino)-8-quinazolinyl acrylate
A solution of 5-chloro-4-(dimethylamino)-8-quinazolinol (0.65 g, 2.91 mmol) in N,N-dimethylformamide is treated in a single portion with a 60% sodium hydride dispersion in mineral oil (0.13 g, 3.25 mmol) at 50° C., stirred for 10 minutes, cooled to 10° C., treated with a solution of acryloyl chloride (0.29 g, 3.20 mmol) in tetrahydrofuran, stirred for 1 hour and diluted with ethyl acetate. The organic solution is washed sequentially with water and brine, dried over Na2SO4 and concentrated in vacuo to obtain a residue. Chromatography of the residue using silica gel and an ethyl acetate/heptane mixture gives the title product as a white solid, 0.42 g, mp 95°-100° C.

reactant | 5-chloro-4-(dimethylamino)-8-quinazolinol | 2.91 mmol, 0.65 g | ClC1=C2C(=NC=NC2=C(C=C1)O)N(C)C | C10H10ClN3O
reactant | sodium hydride | [H-].[Na+]
reactant | acryloyl chloride | 3.20 mmol, 0.29 g | C(C=C)(=O)Cl | C3H3ClO
reactant | ethyl acetate heptane | C(C)(=O)OCC.CCCCCCC
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-4-(dimethylamino)-8-quinazolinyl acrylate | C(C=C)(=O)OC=1C=CC(=C2C(=NC=NC12)N(C)C)Cl | C13H12ClN3O2
